US04128717
(c) 1-Ethyl-4-hydroxy-5-(2-phenylethyl)-1H-pyrazolo[3,4-b]pyridine-6-carboxylic acid from the carboxaldehyde
16.5 g. of 1-ethyl-4-hydroxy-5-(2-phenylethyl)-1H-pyrazolo[3,4-b]pyridine-6-carboxaldehyde, hydrochloride (1:1) (0.05 mol.) are dissolved in 150 ml. of boiling glacial acetic acid. To the filtered solution, cooled to about 30°, 10 g. of H2O2 (35%) (0.1 mol.) are added in two portions and the mixture is allowed to stand for 20 hours at room temperature. The crystallized 1-ethyl-4-hydroxy-5-(2-phenylethyl)-1H-pyrazolo[3,4-b]pyridine-6-carboxylic acid is filtered off, washed with acetic acid and ether, yield: 10.1 g. (65%); m.p. 250°-251° (ethanol).

reactant | 1-ethyl-4-hydroxy-5-(2-phenylethyl)-1H-pyrazolo[3,4-b]pyridine-6-carboxaldehyde, hydrochloride | 0.05 mol | Cl.C(C)N1N=CC=2C1=NC(=C(C2O)CCC2=CC=CC=C2)C=O
reactant | H2O2 | 0.1 mol | OO | H2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-Ethyl-4-hydroxy-5-(2-phenylethyl)-1H-pyrazolo[3,4-b]pyridine-6-carboxylic acid | C(C)N1N=CC=2C1=NC(=C(C2O)CCC2=CC=CC=C2)C(=O)O | C17H17N3O3
